US04868241
The desired tetrachlorobenzoyl chloride is prepared by reacting the tetrachlorobenzoic acid with thionyl chloride. A six fold molar excess of thionyl chloride is slowly added to the acid. This mixture is heated to reflux and held at this temperature for 1.25 hours. The solution is then cooled and the excess thionyl chloride vacuum distilled off. The solution is further distilled under vacuum to yield the pure tetrachlorobenzoyl chloride in 92-93% yield.

reactant | tetrachlorobenzoic acid | ClC=1C(=C(C(=C(C(=O)O)C1)Cl)Cl)Cl | C7H2Cl4O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | tetrachlorobenzoyl chloride | ClC=1C(=C(C(=C(C(=O)Cl)C1)Cl)Cl)Cl | C7HCl5O
